US05166406
2-Acetyl-2-[2-(ethoxycarbonyl)ethyl]cyclohexanone
To a solution of 2-acetylcyclohexanone (25 g, 0.18 mol), potassium carbonate (29.5 g, 0.21 mol) and benzyltriethylammonium chloride (0.8 g, 0.0035 mol) in toluene (70 ml) was added ethyl acrylate (29 ml, 27 g, 0.27 mol) at room temperature. The mixture was heated at 40° C. for 20 hours, filtered and partitioned between distilled water (200 ml) and toluene (200 ml). The organic layer was dried over magnesium sulphate, filtered and concentrated under reduced pressure to give the title compound as a brown oil, (41.7 g, 97%) .

reactant | 2-acetylcyclohexanone | 0.18 mol, 25 g | C(C)(=O)C1C(CCCC1)=O | C8H12O2
reactant | potassium carbonate | 0.21 mol, 29.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acrylate | 0.27 mol, 29 ml, 27 g | C(C=C)(=O)OCC | C5H8O2
catalyst | benzyltriethylammonium chloride | 0.0035 mol, 0.8 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Acetyl-2-[2-(ethoxycarbonyl)ethyl]cyclohexanone | 41.7 g, 97% | C(C)(=O)C1(C(CCCC1)=O)CCC(=O)OCC | C13H20O4
